US04727187
A 500 ml polytetrafluoroethylene reactor equipped with stirrer, thermometer and reflux condenser is charged with 55.9 g (0.2 mol) of 4-(1,1-dichloro-2,2,2-trifluoroethoxy)chlorobenzene in 100 ml of hydrogen fluoride. 3.0 g (0.01 mol; corresponding to 5 mol%) of antimony pentachloride are added at a temperature in the range from -5° C. to 0° C. The resultant hydrogen chloride is removed from the reactor through the reflux condenser. After 20 minutes at 0° C., the evolution of hydrogen chloride ceases. Excess hydrogen fluoride is removed by distillation, the residue is dissolved in 200 ml of methylene chloride and the solution is extracted with water. The organic phase is separated by distillation, affording 47.3 g (89.8% of theory) of 4-(1-chloro-1,2,2,2-tetrafluoroethoxy)chlorobenzene. Boiling point 181° C., nD25 =1.4362.

reactant | 4-(1,1-dichloro-2,2,2-trifluoroethoxy)chlorobenzene | 0.2 mol, 55.9 g | ClC(C(F)(F)F)(OC1=CC=C(C=C1)Cl)Cl | C8H4Cl3F3O
reactant | antimony pentachloride | 0.01 mol, 3.0 g | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | hydrogen fluoride | 100 ml | F | FH
product | 4-(1-chloro-1,2,2,2-tetrafluoroethoxy)chlorobenzene | 47.3 g, 89.8% | ClC(C(F)(F)F)(OC1=CC=C(C=C1)Cl)F | C8H4Cl2F4O
